US06423704B1
Stir a mixture of 2-methoxy-5-(2-oxo-propoxy)-benzoic acid methyl ester (0.49 g, 2.1 mmol), methanol (20 mL) and 1N NaOH (20 mL, 20 mmol) for two hours at room temperatue. Acidify the reaction with 1N HCl (to pH 2) and extract with dichloromethane. Dry (MgSO4) the organic phase, filter and concentrate the filtrate in vacuo. Purify the residue by column chromatography (silica gel, step gradient elution with 3% methanol in dichloromethane to 10% methanol in dichloromethane and concentrate the appropriate fractions to afford 0.38 g of 2-methoxy-5-(2-oxo-propoxy)-benzoic acid, Rf=0.82 (silica gel, dichloromethane:methanol:acetic acid, 85:10:5).

reactant | 2-methoxy-5-(2-oxo-propoxy)-benzoic acid methyl ester | 2.1 mmol, 0.49 g | COC(C1=C(C=CC(=C1)OCC(C)=O)OC)=O | C12H14O5
reactant | NaOH | 20 mmol, 1N, 20 mL | [OH-].[Na+]
reactant | HCl | 1N, pH 2 | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-methoxy-5-(2-oxo-propoxy)-benzoic acid | 0.38 g | COC1=C(C(=O)O)C=C(C=C1)OCC(C)=O | C11H12O5
